US06046232
Synthesis of α-(3-Ethoxy-4-methoxyphenyl)-N-(4-methylpent-2-yl)nitrone
3-Ethoxy-4-methoxybenzaldehyde (12.0 g, 0.0666 mol) and N-(4-methylpent-2-yl)hydroxylamine (9.36 g, 0.0799 mol) were mixed into benzene (200 mL) with p-toluenesulfonic acid monohydrate (1.0 g, 5.26 mol.). The mixture was refluxed for 16 hours under an argon atmosphere with a Dean-Stark trap to remove the generated water. The solution was rotary evaporated, dissolved in ethyl acetate, washed with 5 % aqueous sodium hydroxide solution, dried over magnesium sulfate, filtered and concentrated. The title compound was obtained as a white solid (17.07 g, 91.8% yield), m.p. 87.2° C. (Rf =0.31 on a silica gel plate using hexanes;EtOAc, 1:1, v/v, as an eluant). The N-(4-methyl-2-pentyl)hydroxylamine precursor was obtained by sodium cyanoborohydride reduction of 4-methyl-2-pentanone oxime in methanol, with hydrochloric acid catalysis.

reactant | 3-Ethoxy-4-methoxybenzaldehyde | 0.0666 mol, 12.0 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | N-(4-methylpent-2-yl)hydroxylamine | 0.0799 mol, 9.36 g | CC(CC(C)NO)C | C6H15NO
reactant | p-toluenesulfonic acid monohydrate | 5.26 mol, 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | α-(3-Ethoxy-4-methoxyphenyl)-N-(4-methylpent-2-yl)nitrone | C(C)OC=1C=C(C=CC1OC)C=[N+]([O-])C(C)CC(C)C | C16H25NO3
